Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Proton Pump Inhibitors / OxyContin
 
Attending: ___.
 
Chief Complaint:
left humerus nonunion
 
Major Surgical or Invasive Procedure:
left humerus open reduction internal fixation

 
History of Present Illness:
Mr. ___ is a ___ y/o man with history of HTN, HLD, dCHF, 
prostate ca s/p XRT and ADT who previously had a mechanical fall 
and fractured his left humerus ___ which failed conservative 
treatment. He was seen in clinic on ___ where he stated he 
overall had minimal pain at rest but had increased pain in his 
left arm with movement and needs to use his right arm to help 
move his left at times. Please see note in OMR for full details. 
At that time, it was discussed that his fracture had not aligned 
well and there were no signs of healing. A discussion was had 
and he agreed to surgical fixation. 
 
Past Medical History:
Hypertension  
Hyperlipidemia  
Diastolic heart failure  (Atrius cards)
Frequent PVCs  
Colon adenomas  
Prostate cancer s/p XRT, ADT  
OSA  
SCC of the skin  

Past Surgical History: ___ knee, L shoulder plating  

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS: AVSS
Gen: resting comfortably in bed, in no acute distress
LUE: dressing c/d/i. SILT axillary/radial/median/ulnar nerve
distributions. Fires FPL/APL/DIO. 2+ radial pulse, fingers WWP. 
 
Pertinent Results:
___ 05:08AM BLOOD WBC-8.6 RBC-3.41* Hgb-10.7* Hct-33.6* 
MCV-99* MCH-31.4 MCHC-31.8* RDW-13.4 RDWSD-48.5* Plt ___
___ 05:08AM BLOOD Glucose-117* UreaN-15 Creat-0.8 Na-136 
K-4.3 Cl-99 HCO3-24 AnGap-13
___ 05:08AM BLOOD Calcium-7.9* Phos-3.9 Mg-1.8
 
Brief Hospital Course:
The patient presented as a same day admission for surgery. The 
patient was taken to the operating room on ___ for a left 
humerus open reduction internal fixation, which the patient 
tolerated well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition and after satisfactory 
recovery from anesthesia was transferred to the floor. The 
patient was initially given IV fluids and IV pain medications, 
and progressed to a regular diet and oral medications. The 
patient was given ___ antibiotics and anticoagulation 
per routine. The patient's home medications were continued 
throughout this hospitalization. The patient worked with OT who 
determined that discharge to home was appropriate. The ___ 
hospital course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. A thorough 
discussion was had with the patient regarding the diagnosis and 
expected post-discharge course including reasons to call the 
office or return to the hospital, and all questions were 
answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO QHS 
2. Aspirin 81 mg PO DAILY 
3. Ranitidine 150 mg PO BID 
4. Simvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet(s) by 
mouth three times daily Disp #*100 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
hold for loose stools 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*100 Capsule Refills:*0 
3.  HYDROmorphone (Dilaudid) 1 mg PO Q3H:PRN Pain - Severe 
don't drink/drive/operate heavy machinery while taking 
RX *hydromorphone [Dilaudid] 2 mg 1 tablet(s) by mouth every 3 
hours as needed Disp #*100 Tablet Refills:*0 
4.  Ramelteon 8 mg PO QHS:PRN insomnia  
5.  Senna 17.2 mg PO HS 
hold for loose stools 
RX *sennosides [senna] 8.6 mg 2 tablets by mouth daily Disp #*80 
Tablet Refills:*0 
6.  Venlafaxine XR 37.5 mg PO DAILY  
7.  Aspirin 81 mg PO DAILY  
8.  Lisinopril 5 mg PO QHS  
9.  Ranitidine 150 mg PO BID  
10.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left humerus nonunion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
-non weight bearing left upper extremity 

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Please remain in your dressing and do not change unless it is 
visibly soaked or falling off.
- Please do not get sling wet. 

 
Followup Instructions:
___